US04990614
In the same manner as in Reference Example 2, N-tert-butoxycarbonyl-L-glutamine and 1-methylpiperazine were condensed to obtain a crystal of 1-(N-tert-butoxycarbonyl-L-glutaminyl)-4-methylpiperazine (7.0 g).

reactant | N-tert-butoxycarbonyl-L-glutamine | C(C)(C)(C)OC(=O)N[C@@H](CCC(N)=O)C(=O)O | C10H18N2O5
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 1-(N-tert-butoxycarbonyl-L-glutaminyl)-4-methylpiperazine | 7.0 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(N)=O)C(=O)N1CCN(CC1)C | C15H28N4O4
